US20010056179A1
A mixture of racemic 5-isopropyl-2-aminotetraline-2-carboxylic acid (250 mg, 1.07 mmole), triethylamine (1.2 ml, 8.61 mmole), 9-fluorenylmethyl succinimidyl carbonate (Fmoc-OSu, 2.70 g, 8.00 mmole) in acetonitrile (30 ml) and water (30 ml) was stirred at room temperature for 2 days. The reaction mixture was concentrated in vacuo to remove most of the acetonitrile, acidified to pH ˜3 with 10% aqueous citric acid solution, and the white emulsion was extracted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. Filtration and concentration gave a crude oil which was purified by column chromatography (eluted with 2→5→8% methanol/methylene chloride) to give racemic Fmoc-5-isopropyl-2-aminotetraline-2-carboxylic acid (208 mg, 43% yield) as an off-white foam. HRMS (FAB): C29H30NO4 (M+H) calc. 456.2175; observed: 456.2184.

reactant | racemic 5-isopropyl-2-aminotetraline-2-carboxylic acid | 1.07 mmole, 250 mg | C(C)(C)C1=C2CCC(CC2=CC=C1)(C(=O)O)N | C14H19NO2
reactant | triethylamine | 8.61 mmole, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | 9-fluorenylmethyl succinimidyl carbonate | 8.00 mmole, 2.70 g | C(OCC1C2=CC=CC=C2C=2C=CC=CC12)(ON1C(CCC1=O)=O)=O | C19H15NO5
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | racemic Fmoc-5-isopropyl-2-aminotetraline-2-carboxylic acid | 208 mg, 43% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1C(CCC2=C(C=CC=C12)C(C)C)(C(=O)O)N | C29H29NO4
